US06846819B1
e) (E)-3-(5,6,7,8-Tetrahydro-1,8-naphthyridin-3-yl)acrylic acid
Benzyl (E)-3-[8-(tert-butoxycarbonyl)-5,6,7,8-tetrahydro1,8-naphthyridin-3-yl]acrylate (1.21 g, 3.07 mmole) was dissolved in 4 N HCl in dioxane (15 mL). After 18 hr the mixture was concentrated. The residue was taken up in 1:1 MeOH/H2O (15 mL). 1.0 N LiOH (15 mL, 15 mmole) was added and the mixture heated to reflux. After 18 hr the mixture was cooled to RT and concentrated to approximately ⅓ volume. The mixture was adjusted to pH 6 using 10% HCl. The solid was collected by filtration, washed with H2O, and dried in vacuo to give the title compound (180 mg, 29% over 2 steps): MS (ES) m/e 205 (M+H)+.

reactant | Benzyl (E)-3-[8-(tert-butoxycarbonyl)-5,6,7,8-tetrahydro1,8-naphthyridin-3-yl]acrylate | 3.07 mmole, 1.21 g | C(C)(C)(C)OC(=O)N1CCCC=2C=C(C=NC12)/C=C/C(=O)OCC1=CC=CC=C1 | C23H26N2O4
reactant | LiOH | 15 mmole, 1.0 N, 15 mL | [Li+].[OH-]
solvent | HCl | 4 N | Cl | ClH
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
product | (E)-3-(5,6,7,8-Tetrahydro-1,8-naphthyridin-3-yl)acrylic acid | 180 mg, 29% | N1=CC(=CC=2CCCNC12)/C=C/C(=O)O | C11H12N2O2
